US07482340B2
2.15 g of 5-nitro-2-[2-(3-benzyloxyphenyl)chroman-6-yloxy]pyridine was dissolved to 600 ml of ethanol and 430 mg g of 10% palladium on charcoal was added under inert atmosphere. Starting material was hydrogenated at room temperature to give quantitative yield of 3-[6-(5-aminopyridin-2-yloxy)chroman-2-yl]phenol 1H NMR (400 MHz, d6-DMSO) δ: 9.50 (bs, 1H), 7.52 (d, 1H, J 3.0 Hz), 7.17 (t, 1H, J 8.1 Hz), 7.05 (dd, 1H, J 3.0, 8.6 Hz), 6.84-6.68 (m, 7H), 5.01-4.99 (m, 3H), 2.91-2.86 (m, 1H), 2.70-2.63 (m, 1H), 2.14-2.08 (m, 1H), 1.96-1.89 (m, 1H).

reactant | 5-nitro-2-[2-(3-benzyloxyphenyl)chroman-6-yloxy]pyridine | 2.15 g | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C27H22N2O5
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 3-[6-(5-aminopyridin-2-yloxy)chroman-2-yl]phenol | quantitative yield | NC=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C=1C=C(C=CC1)O | C20H18N2O3
